US04812164
using isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate with phosphorus oxychloride and pyridine within 1 hour at room temperature there is obtained isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]4-fluorobenzoate, 1H-NMR (CDCl3, 60 MHz): 7.90 ppm (d,1H), 7.48 ppm (d,1H), 6.96 ppm (s,1H), 5.30 ppm (m,1H), 1.40 ppm (d,6H);

reactant | isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)C(C(F)(F)F)(F)F)=O | C16H11ClF6N2O4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)Cl | C16H10Cl2F6N2O3
